US05763439
6.95 g of 2-tert-butyl-4-chloro-5-nitropyridazin-3-(2H)-one and 50 ml of 28% aqueous ammonia were mixed, sealed and reacted for 5 hours in an oil bath of 110° C. After cooling, the precipitate was collected by filtration and washed a few times with water and then dried to obtain 5.97 g of 4-amino-2-tert-butyl-5-nitropyridazin-3-(2H)-one.

reactant | 2-tert-butyl-4-chloro-5-nitropyridazin-3-(2H)-one | 6.95 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)[N+](=O)[O-] | C8H10ClN3O3
reactant | ammonia | 50 ml | N | H3N
product | 4-amino-2-tert-butyl-5-nitropyridazin-3-(2H)-one | 5.97 g | NC=1C(N(N=CC1[N+](=O)[O-])C(C)(C)C)=O | C8H12N4O3
